US04070177
Preparation of ethyl-α-[2-cyano-5-(2-chloro-4-trifluoromethyl phenoxy)phenoxy]butyrate
A 10 g of ethyl-α-[2-bromo-5-(2-chloro-4-trifluoromethyl phenoxy) phenoxy]butyrate was dissolved in 20 ml of dimethylformamide. A 2.5 g of cuprous cyanide was added to the solution and the reaction was conducted at 145° to 150° C for 4 hours with stirring the mixture. The reaction mixture was poured into suitable amount of an aqueous solution of ferric chloride. The product was extracted with chloroform. The extract was washed with water and was dried. The chloroform was evaporated off and the product was distilled at reduced pressure to obtain 6 g of the object compound having a boiling point of 200° to 205° C/1 mmHg.

reactant | ethyl-α-[2-bromo-5-(2-chloro-4-trifluoromethyl phenoxy) phenoxy]butyrate | 10 g | C(C)OC(C(CC)OC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)Br)=O | C19H17BrClF3O4
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl-α-[2-cyano-5-(2-chloro-4-trifluoromethyl phenoxy)phenoxy]butyrate | 6 g | C(C)OC(C(CC)OC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)C#N)=O | C20H17ClF3NO4
